US09290517B2
Step B: (3R,3aR,6R,6aR)-6-((6-chloro-5-(cyclopent-1-en-1-yl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol
To (3R,3aR,6R,6aR)-6-((6-chloro-5-(cyclopent-1-en-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol (15 mg, 0.030 mmol) in anhydrous DCM (0.55 mL) was added TFA (0.55 mL, 7.13 mmol). The solution stirred at RT for 54 h. The reaction solution was evaporated under reduced pressure. Flash chromatography utilizing a 4 g silica RediSep Rf® Gold column and employing a 0-20% (1% NH4OH in MeOH)/DCM gradient afforded the title compound. LC-MS: calculated for C17H18ClN3O4 363.10 observed m/e: 364.11 (M+H)+ (Rt 1.20/2.0 min).

reactant | (3R,3aR,6R,6aR)-6-((6-chloro-5-(cyclopent-1-en-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | 0.030 mmol, 15 mg | ClC=1C=C2C(=NC1C1=CCCC1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C23H32ClN3O5Si
reactant | TFA | 7.13 mmol, 0.55 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.55 mL | C(Cl)Cl | CH2Cl2
product | (3R,3aR,6R,6aR)-6-((6-chloro-5-(cyclopent-1-en-1-yl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CCCC1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C17H18ClN3O4
